US05814651
A mixture of (800 mg, 5.3 mmoles) cyclopentyl bromide, (1.6 g, 5.3 mmoles) methyl 1-(3-hydroxy-4-methoxyphenyl)-1H-benzimidazole-5-carboxylate and 251 mg of 50% sodium hydride in 10 ml of dimethylformamide was stirred at 100° C. for 30 minutes. The reaction was cooled, poured onto H2O and extracted with ethyl acetate. The ethyl acetate layer was dried and evaporated to give 2 g of crude product. Purification on silica gel with CH2Cl2 gave 1.1 g of methyl 1-(3-cyclopentyl-4-methoxyphenyl)-1H-benzimidazole-5-carboxylate. M.P.: 129°-131°.

reactant | cyclopentyl bromide | 5.3 mmoles, 800 mg | C1(CCCC1)Br | C5H9Br
reactant | methyl 1-(3-hydroxy-4-methoxyphenyl)-1H-benzimidazole-5-carboxylate | OC=1C=C(C=CC1OC)N1C=NC2=C1C=CC(=C2)C(=O)OC | C16H14N2O4
reactant | sodium hydride | 251 mg | [H-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl 1-(3-cyclopentyl-4-methoxyphenyl)-1H-benzimidazole-5-carboxylate | 1.1 g | C1(CCCC1)C=1C=C(C=CC1OC)N1C=NC2=C1C=CC(=C2)C(=O)OC | C21H22N2O3
